US05276028
3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-5-morpholino-imidazo[1,5-a]quinazoline
A mixture of ethyl 5-morpholino-imidazo[1,5-a]quinazoline-3-carboxylate (2.5 g, 7.7 mmol), cyclopropanecarboxamide oxime (3.8 g), crushed 4 Å molecular sieves (7.5 g), and sodium hydride (0.3 g, 60% in mineral oil, 7.7 mmol) in 50 ml of dry DMF was stirred at room temperature for 1 h. Glacial acetic acid (2 ml) and dichloromethane (75 ml) was added, and the mixture was filtered through celite. The filtrate was evaporated and the residue was triturated with water (100 ml). Pale yellow crystals precipitated and was collected by filtration and dried to give 2.3 g of the title compound, m.p. 189°-191° C. A pure product was obtained by recrystallization from CH2Cl2 /ethyl acetate; yield 1.9 g (69%), m.p. 197°-198° C. (Compound 19).

reactant | ethyl 5-morpholino-imidazo[1,5-a]quinazoline-3-carboxylate | 7.7 mmol, 2.5 g | O1CCN(CC1)C1=NC=2N(C3=CC=CC=C13)C=NC2C(=O)OCC | C17H18N4O3
reactant | cyclopropanecarboxamide oxime | 3.8 g | C1(CC1)C(N)=NO | C4H8N2O
reactant | sodium hydride | 7.7 mmol, 0.3 g | [H-].[Na+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-5-morpholino-imidazo[1,5-a]quinazoline | 2.3 g | C1(CC1)C1=NOC(=N1)C=1N=CN2C1N=C(C1=CC=CC=C21)N2CCOCC2 | C19H18N6O2
